US07994185B2
Step B: N-{2-Fluoro-3-[5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-3-pyridinesulfonamide
Following a procedure analogous to the procedure described in Example 18, Step B, using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-pyridinesulfonamide (155 mg, 0.291 mmol) and isobutylamine (0.292 mL, 2.91 mmol) the title compound was obtained as a yellow foam (83 mg, 50% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.53 (s, 1H), 8.83 (d, J=2.3 Hz, 1H), 8.73 (dd, 1H), 8.03-8.13 (m, 1H), 7.83 (d, J=5.2 Hz, 1H), 7.53 (dd, J=8.1, 4.9 Hz, 1H), 7.31-7.44 (m, 1H), 7.17-7.34 (m, 2H), 7.09 (d, J=1.4 Hz, 1H), 5.39-5.65 (m, 1H), 3.66 (t, J=4.6 Hz, 4H), 3.36-3.49 (m, 4H), 2.82-3.14 (m, 2H), 1.77 (dt, J=13.3, 6.7 Hz, 1H), 0.82 (d, J=6.6 Hz, 6H). MS (ESI): 570.1 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-pyridinesulfonamide | 0.291 mmol, 155 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C=1C=NC=CC1)F | C22H18ClFN6O3S2
reactant | isobutylamine | 2.91 mmol, 0.292 mL | C(C(C)C)N | C4H11N
product | N-{2-Fluoro-3-[5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-3-pyridinesulfonamide | FC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)NCC(C)C)N1CCOCC1)NS(=O)(=O)C=1C=NC=CC1 | C26H28FN7O3S2
